US04515962
Preparation of allyl-bicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid imide
A mixture of 102 g of allyl-bicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid anhydride, prepared according to Example 1 in U.S. Pat. No. 3,105,839, and 68.1 g of 25% aqueous ammonia solution is refluxed with cooling at 95°-102° C. for 70 minutes, while stirring. The water and excess ammonia are then distilled off under reduced pressure (6,133 Pa). When the internal temperature reaches 120° C., 54 ml of aqueous ammonia have been distilled off. An orange-coloured, viscous residue remains, and is distilled under a pressure of 13.3 Pa. 62.07 g of allyl-bicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid imide pass over between 132° and 135° C., corresponding to a yield of 60% of theory. The imide is a yellow oil of refractive index nD20 1.5421 and viscosity η25 345 Pa.s at 25° C.

reactant | allyl-bicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid anhydride | 102 g | C(C=C)C12C3C(C(C=C1)C2)C(=O)OC3=O | C12H12O3
reactant | ammonia | 68.1 g | N | H3N
product | allyl-bicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid imide | yield of 60% | C(C=C)C12C(C(C(C=C1)C2)C(=O)O)C(O)=N | C12H15NO3
